US04719047
10-Bromo-1-anthracenecarboxylic acid made from example 2B by the procedure of E. Barnett, J. W. Cook, and H. H. Grainger, Ber. 57 B, 1775 (1924), was reduced with BH3 in THF by the procedure outlined in 2C to give (10-bromo-1-anthryl)methanol mp 125°-127°, (EtOAc/hexane), (C,H,Br).

reactant | 10-Bromo-1-anthracenecarboxylic acid | BrC1=C2C=CC=C(C2=CC2=CC=CC=C12)C(=O)O | C15H9BrO2
solvent | THF | C1CCOC1 | C4H8O
product | (10-bromo-1-anthryl)methanol | BrC1=C2C=CC=C(C2=CC2=CC=CC=C12)CO | C15H11BrO
